*  BUF634 SIMPLIFIED CIRCUIT MACROMODEL
*  CREATED 1/2/95   SB
*  REV. A
*  REV. B  1 FEB 2000 BY NPA: CORRECTED NODE 102 CONNECTION, RENAMED AS BUF634
*
*  30MV TYPICAL INPUT OFFSET MODELED BY "VOS"; THIS MAY BE SET TO ZERO IF DESIRED.
* ------------------------------------------------------------------------
*|(C) Copyright Texas Instruments Incorporated 2007. All rights reserved. |
*|                                                                        |
*|This Model is designed as an aid for customers of Texas Instruments.    |
*|No warranties, either expressed or implied, with respect to this Model  |
*|or its fitness for a particular purpose is claimed by Texas Instruments |
*|or the author.  The Model is licensed solely on an "as is" basis.  The  |
*|entire risk as to its quality and performance is with the customer.     |
* ------------------------------------------------------------------------
*
* CONNECTIONS:    INPUT
*                 |  POSITIVE POWER SUPPLY
*                 |  |  NEGATIVE POWER SUPPLY
*                 |  |  |  OUTPUT
*                 |  |  |  |   
.SUBCKT BUF634    1  80 90 16 
*
RIN    1     2    200
R1     6    13    500
R2     4     9    500
RO1   15    16    5
RO2   16    17    5
R5    20    90    150
R6    23    90    12E3
R7    94    90    60
R8    98    90    40
R9    80    85    40
R10   80    86    60
*
CP     1     2    1E-10
C1     13    0    1.5E-12
C2     9     0    1.5E-12
CO     16    0    2E-12 
*
Q1     5   102    3   QN 8
Q2     8   102    7   QP 8
Q3     4   8   94   QN 8
Q4     6   5   86   QP 8
Q5    90   9   10   QP 8
Q6    80  13   12   QN 8
Q7    90  10   17   QP 96
Q8    80  12   15   QN 96
Q9    22  21   20   QN 2
Q10    5  21   20   QN 2
Q11   22  24   80   QP 4
Q12    8  22   24   QP 4
*
D1     3    4   DX  8
D2    85    5   DX  8
D3     8   98   DX  8
D4     6    7   DX  8
D5    11   10   DX  2
D6    12   11   DX  2  
D8    21   23   DX  2
D9    80   24   DX  4
D10    7   73   DX  8
D11   73    3   DX  8
*
ISS   80  21  60E-6 
*
*Input Errors
*
VOS     2  102    30E-3
IB     80    1    5E-6
CIN    1     0    6E-12
*
*Input Protection Circuit
*
R29    2   57  1E3
R30   16   58  1E3
Q57   16   57  2   QN  4  
Q58    2   58  16  QN  4
V1    16   57    3
V2     2   58    3
*
*Short Circuit Current Protection
* 
R24   15   14   1.5E3
R25   14   16   1E3
R26   16   18   1E3
R27   18   17   1.5E3
Q35   86   14   16   QN
Q36   94   18   16   QP
*
.MODEL DX D(IS=8E-16)
.MODEL QN NPN(IS=1E-15  BF=200) 
.MODEL QP PNP(IS=1E-15  BF=200)
.ENDS BUF634
 
